US07173031B2
C) 1-(4-Fluorophenyl)-5-nitro-2-oxo-1,2-dihydropyridine-3-carboxylic acid
A mixture of methyl 1-(4-fluorophenyl)-5-nitro-2-oxo-1,2-dihydropyridine-3-carboxylate (75 mg, 0.245 mmol) and 2 N NaOH solution (1 mL) was stirred at 80° C. for 2 h. The reaction mixture was cooled to rt and acidified with 1 N HCl solution. The solid that formed was collected, washed with water and dried to afford the title compound (45 mg, 66%), which was used directly in the next reaction. 1H NMR (DMSO-d6) δ 13.41 (s, 1H), 9.28 (d, 1H, J=3.2 Hz), 8.70 (d, 1H, J=3.2 Hz), 7.60 (m, 2H), 7.41 (m, 2H); MS(ESI+) m/z 279 (M+H)+.

reactant | methyl 1-(4-fluorophenyl)-5-nitro-2-oxo-1,2-dihydropyridine-3-carboxylate | 0.245 mmol, 75 mg | FC1=CC=C(C=C1)N1C(C(=CC(=C1)[N+](=O)[O-])C(=O)OC)=O | C13H9FN2O5
reactant | NaOH | 2 N, 1 mL | [OH-].[Na+]
reactant | HCl | 1 N | Cl | ClH
product | 1-(4-Fluorophenyl)-5-nitro-2-oxo-1,2-dihydropyridine-3-carboxylic acid | 45 mg, 66% | FC1=CC=C(C=C1)N1C(C(=CC(=C1)[N+](=O)[O-])C(=O)O)=O | C12H7FN2O5
